US06265575B1
Part A. [2-(4-Chlorophenoxy)ethyl]dimethylamine
The title compound was prepared in 61% yield (26% SM recovered) by essentially following the procedure outlined in Example 34, Part A from 2-bromoethyl 4-chlorophenyl ether and dimethylamine.

reactant | 2-bromoethyl 4-chlorophenyl ether | ClC1=CC=C(C=C1)OCCBr | C8H8BrClO
reactant | dimethylamine | CNC | C2H7N
product | [2-(4-Chlorophenoxy)ethyl]dimethylamine | 61% yield | ClC1=CC=C(OCCN(C)C)C=C1 | C10H14ClNO
